* ==========================================================
* MOC30xx_BASE – Optotriac Zero-Cross (functional model)
* Stable, hysteretic, load-driven conduction
* LTspice compatible
* Pins: A K MT1 MT2
* ==========================================================

.subckt MOC30xx_BASE A K MT1 MT2 PARAMS:
+ VF_LED=1.3
+ IR_LED=100u
+ IFT=5m
+ IH_ON=500u
+ IH_OFF=300u
+ VINH=12
+ IDRM=10n
+ IDRM_INH=2m
+ RON=0.1

************************************************************
* INPUT SIDE – LED
************************************************************
DLED A K DLED_CORE
.model DLED_CORE D(Is={IR_LED} N=1.8 Rs=5 Vfwd={VF_LED})

* LED current sense (legal I())
VLED_SENSE A A_SENSE 0

************************************************************
* TRIAC SIDE – LOOP BREAKING & SENSING
************************************************************
* Small series resistance for numerical stability
R_SER MT2 MT2_S 100m

* Current sense element for hold current
VAC_SENSE MT2_S MT2_INT 0

************************************************************
* AC VOLTAGE SENSE – ZERO CROSS DETECTOR
************************************************************
E_AC VAC 0 VALUE = { V(MT1,MT2) }

************************************************************
* ZERO-CROSS WINDOW (SMOOTH)
* ZC_OK ≈ 1 when |VAC| < VINH
************************************************************

* Zero-cross raw detector
B_ZC_RAW ZC_RAW 0 V = {
+ 0.5*(1 - tanh((abs(V(VAC)) - VINH)/1))
+ }

* Temporal smoothing (prevents chatter)
R_ZC ZC_RAW ZC_OK 10k
C_ZC ZC_OK 0 100n


************************************************************
* TRIGGER CONDITION (LED CURRENT + ZERO CROSS)
************************************************************
B_TRIG TRIG 0 V = {
+ 0.5*(1 + tanh((abs(I(VLED_SENSE)) - IFT)/0.0005))
+ * V(ZC_OK)
+ }

************************************************************
* TRIAC LATCH (STATE MEMORY)
************************************************************
C_STATE STATE 0 1u IC=0
R_STATE STATE 0 200Meg

* Set latch when triggered
B_SET STATE 0 I = {
+ 1m * tanh(10*V(TRIG))
+ }

************************************************************
* HOLD CURRENT DETECTION WITH HYSTERESIS
************************************************************
* Detect holding (turn-on threshold)
B_IH_ON IH_OK 0 V = {
+ 0.5*(1 + tanh((abs(I(VAC_SENSE)) - IH_ON)/0.0001))
+ }

* Reset latch only when current < IH_OFF
B_RESET STATE 0 I = {
+ -1m * tanh(10*(IH_OFF - abs(I(VAC_SENSE))))
+ }

************************************************************
* TRIAC CONDUCTION PATH (REAL CURRENT FLOW)
************************************************************
* Smooth resistance transition to avoid timestep collapse
R_TRIAC MT2_INT MT1 R = {
+ RON + 1e9*(1 - tanh(5*V(STATE)))
+ }

************************************************************
* LEAKAGE CURRENTS
************************************************************
* Off-state leakage
G_LEAK MT1 MT2 VALUE = { IDRM }

* Leakage when zero-cross is inhibited
G_LEAK_INH MT1 MT2 VALUE = {
+ (1 - V(ZC_OK)) * IDRM_INH
+ }

.ends MOC30xx_BASE


************************************************************
* TRIAC INDIVIDUAL PARTS
************************************************************

.subckt MOC3081 A K MT2 MT1
XCORE A K MT2 MT1 MOC30xx_BASE PARAMS:
+ IFT=15m
+ VINH=12
.ends MOC3081

.subckt MOC3082 A K MT2 MT1
XCORE A K MT2 MT1 MOC30xx_BASE PARAMS:
+ IFT=10m
+ VINH=12
.ends MOC3082

.subckt MOC3083 A K MT2 MT1
XCORE A K MT2 MT1 MOC30xx_BASE PARAMS:
+ IFT=5m
+ VINH=12
.ends MOC3083