* ==========================================================
* MOC30xx_BASE – Optotriac Zero-Cross (functional model)
* Stable, hysteretic, load-driven conduction
* LTspice compatible
* Pins: A K MT1 MT2
* ==========================================================

.subckt MOC30xx_BASE A K MT1 MT2 PARAMS:
+ VF_LED=1.3
+ IR_LED=100u
+ IFT=5m
+ IH_ON=500u
+ VINH=12
+ IDRM=10n
+ IDRM_INH=2m
+ RON=0.1

************************************************************
* INPUT SIDE – LED
************************************************************
DLED A_INT K DLED_CORE
.model DLED_CORE D(Is={IR_LED} N=1.8 Rs=5 Vfwd={VF_LED})

R_LED A A_INT 1m

************************************************************
* TRIAC SIDE – LOOP BREAKING & SENSING
************************************************************
* Small series resistance for numerical stability
R_SER MT2 MT2_S R={RON/100}

************************************************************
* AC VOLTAGE SENSE – ZERO CROSS DETECTOR
************************************************************
B_AC VAC 0 V={ V(MT1,MT2) }

************************************************************
* ZERO-CROSS WINDOW (SMOOTH)
* ZC_OK ≈ 1 when |VAC| < VINH
************************************************************

* Zero-cross raw detector
B_ZC ZC_OK 0 V = {
+ 0.5*(1 - tanh(100*(abs(V(VAC)) - VINH)))
+ }


************************************************************
* TRIGGER CONDITION (LED CURRENT + ZERO CROSS)
************************************************************
B_ILED ILED_OK 0 V={
+ 0.5*(1 + tanh((abs(I(R_LED)) - IFT)*2k))
+ }

B_TRIG TRIG 0 V = {
+ V(ILED_OK) * V(ZC_OK)
+ }

************************************************************
* TRIAC LATCH (STATE MEMORY)
************************************************************
C_STATE PS_STATE 0 1u IC=0
R_STATE PS_STATE 0 200Meg

* Set latch when triggered
B_SET VSET 0 V = {
+ 0.5 * (tanh(10*(V(TRIG)-0.5))+1)
+ }

D_SET VSET D_SET_R D_IDEAL
.model D_IDEAL D(Is=1e-15 N=1 Rs=10m Ron=10m Roff=1e10 Vfwd=1u)

R_SET D_SET_R PS_STATE 10

************************************************************
* HOLD CURRENT DETECTION WITH HYSTERESIS
************************************************************
* Detect holding (turn-on threshold)
B_IH_ON IH_OK 0 V={
+ (tanh((abs(I(R_SER))-IH_ON)*50k)+1)*0.5
+ }

B_RESET_COND RESET_COND 0 V={
+ limit(V(IH_OK) + V(ILED_OK),0,1)
+ }

B_RESET PS_STATE 0 I={
+ 1-V(RESET_COND)
+ }

B_STATE STATE 0 V={
+ limit(V(PS_STATE),0,1)
+ }

************************************************************
* TRIAC CONDUCTION PATH (REAL CURRENT FLOW)
************************************************************
* Smooth resistance transition to avoid timestep collapse
R_TRIAC MT2_S MT1 R = {
+ RON + 1e9 * (1 - tanh(1000 * V(STATE)))
+ }

************************************************************
* LEAKAGE CURRENTS
************************************************************
* Off-state leakage
B_LEAK MT1 MT2 I={ IDRM }

* Leakage when zero-cross is inhibited
* B_LEAK_INH MT1 MT2 I={
* + (1 - V(ZC_OK)) * IDRM_INH
* + }

.ends MOC30xx_BASE


************************************************************
* TRIAC INDIVIDUAL PARTS
************************************************************

.subckt MOC3081 A K MT2 MT1
XCORE A K MT2 MT1 MOC30xx_BASE PARAMS:
+ IFT=15m
+ VINH=12
.ends MOC3081

.subckt MOC3082 A K MT2 MT1
XCORE A K MT2 MT1 MOC30xx_BASE PARAMS:
+ IFT=10m
+ VINH=12
.ends MOC3082

.subckt MOC3083 A K MT2 MT1
XCORE A K MT2 MT1 MOC30xx_BASE PARAMS:
+ IFT=5m
+ VINH=12
.ends MOC3083